US08877782B2
6-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-N-methyl-nicotinamide
As described for example 129, 6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (100 mg, 0.25 mmol), instead of 6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester, was converted to the title compound (66 mg, 66%) which was obtained as an off white solid. MS: m/e=396.1 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.25 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C18H12F4N2O4
reactant | 6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C18H13F3N2O4
product | 6-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-N-methyl-nicotinamide | 66 mg, 66% | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)NC)C=C1)C(F)(F)F | C18H13F4N3O3
